US07727988B2
1-(4-chlorobutyl)-5-methyl-2,4(1H,3H)-pyrimidinedione (Prep6)
A mixture of 5-methyl-2,4(1H,3H)-pyrimidinedione (thimine, 500 mg, commercially available from Aldrich) and K2CO3 (546 mg) in dry DMSO (15 mL) was stirred for 1 hour at room temperature. 1-bromo-4-chlorobutane (0.46 mL) was then added and the mixture was stirred at room temperature for 20 hours. Water was then added and the resulting mixture was extracted with EtAcO. The aqueous phase was acidified to pH 7 with aqueous 2% HCl solution and extracted with DCM. The organic phases were washed with brine, dried over Na2SO4 and concentrated in vacuo. The crude product was purified by a silica SPE cartridge (25 g) eluting with toluene/acetone from 95/5 to 75/25 to give the title compound as a colourless oil (250 mg).

reactant | 5-methyl-2,4(1H,3H)-pyrimidinedione | CC=1C(NC(NC1)=O)=O | C5H6N2O2
reactant | K2CO3 | 546 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 0.46 mL | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 1-(4-chlorobutyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | 250 mg | ClCCCCN1C(NC(C(=C1)C)=O)=O | C9H13ClN2O2
